US09238658B2
In a flask was placed methyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-5-carboxylate (80.8 mg, 0.2 mmol) and MeOH (4 mL) was added. Then, 40 wt % CH3NH2(aq) (6 mL) was added and the resulting mixture was heated to 38-40° C. for 4 h. The resulting mixture was concentrated to remove MeOH and then partitioned in CH2Cl2/H2O (30 mL/30 mL). The aqueous layer was extracted with CH2Cl2 (30 mL). The combined organic layer was dried (Na2SO4) and filtered. The solvent was removed by roto-evaporator and the resulting residue re-solidified from CH2Cl2/hexane to yield 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)-N-methylthiazole-5-carboxamide as a white solid.

reactant | methyl 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)thiazole-5-carboxylate | 0.2 mmol, 80.8 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC(=CN1)C(=O)OC | C19H21FN4O3S
reactant | CH3NH2 | 6 mL | CN | CH5N
solvent | MeOH | 4 mL | CO | CH4O
product | 2-(4-(6-fluoroindolin-1-yl)piperidine-1-carboxamido)-N-methylthiazole-5-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC(=CN1)C(=O)NC | C19H22FN5O2S
